US05807859
1.18 g of 10-acetamido-10-isopropyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one are dissolved in 25 ml of boiling 2N hydrochloric acid and the solution is stirred for 1 hours at boiling, cooled and concentrated to dryness under reduced pressure (15 mmHg; 2 kPa) at 60° C. The product obtained is dissolved in 20 ml of ethanol and, after addition of decolorizing charcoal, the solution is filtered. The filter is washed with 20 ml of ethanol and the filtrate and washing are then combined, 200 ml of acetone are added and the solution is stored for 45 minutes at a temperature in the region of 5° C. The insoluble product formed is isolated by filtration, washed with 10 ml of acetone and dried under reduced pressure (1 mmHg; 0.13 kPa) at 60° C. The product obtained (0.6 g) is stirred in suspension in 20 ml of boiling isopropyl ether for 15 minutes and, after cooling to a temperature in the region of 20° C., the insoluble product is isolated by filtration, washed twice with 20 ml in total of isopropyl ether and dried under reduced pressure (1 mmHg; 0.13 kPa) at 60° C. 0.46 g of 10-amino-10-isopropyl-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one hydrochloride is thus obtained, decomposing without melting above 250° C. (Analysis, % calculated C: 58.97, H: 5.34, Cl: 13.60, N: 17.19, O: 4.91, % found C: 59.0, H: 5.4, Cl: 13.6, N: 16.8, O: 4.9).

reactant | 10-acetamido-10-isopropyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 1.18 g | C(C)(=O)NC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)C(C)C | C18H18N4O2
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | charcoal | C | CH4
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | isopropyl ether | 20 ml | C(C)(C)OC(C)C | C6H14O
product | 10-amino-10-isopropyl-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one hydrochloride | 0.46 g | Cl.NC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)C(C)C | InChI=1S/C16H16N4O.ClH/c1-9(2)16(17)11-6-4-3-5-10(11)12-13(16)20-8-7-18-14(20)15(21)19-12;/h3-9H,17H2,1-2H3,(H,19,21);1H
